US07947689B2
1-[6-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-7-methyl-4,5,6,7-tetrahydropyrrolo[2,3-c]pyridin-1-yl]-ethanone
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-methyl-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridin-6-yl)-methanone is reacted with acetic acid to provide the title compound.

reactant | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(7-methyl-1,4,5,7-tetrahydro-pyrrolo[2,3-c]pyridin-6-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)C=CN1)C | C15H14BrN5O
reactant | acetic acid | C(C)(=O)O | C2H4O2
product | 1-[6-(6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carbonyl)-7-methyl-4,5,6,7-tetrahydropyrrolo[2,3-c]pyridin-1-yl]-ethanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2C(C1=C(CC2)C=CN1C(C)=O)C | C17H16BrN5O2
